US05086055
5-[2-[4-(4-fluorophenyl)-1-piperazinyl]ethyl]-3-methyl-2-oxazolidinone
A mixture of 4.5 g (0.025 mol) of 1-(4-fluorophenyl)piperazine, 4.1 g (0.025 mol) of 5-(2-chloroethyl)-3-methyl-2-oxazolidinone, 8.0 g (0.075 mol) of anhydrous sodium carbonate and 0.4 g of potassium iodide in 150 mL of n-butanol was heated at reflux for 20 h. The mixture was concentrated under reduced pressure and the residue partitioned between water and benzene. The benzene layer was washed with water and brine, dried (Na2SO4) and concentrated under reduced pressure to obtain a solid which was recrystallized from 2-propanol isopropyl/ether to obtain 5.7 g (74%) of white solid, mp 82°-84° C.

reactant | 1-(4-fluorophenyl)piperazine | 0.025 mol, 4.5 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | 5-(2-chloroethyl)-3-methyl-2-oxazolidinone | 0.025 mol, 4.1 g | ClCCC1CN(C(O1)=O)C | C6H10ClNO2
reactant | sodium carbonate | 0.075 mol, 8.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.4 g | [I-].[K+]
solvent | n-butanol | 150 mL | C(CCC)O | C4H10O
product | 5-[2-[4-(4-fluorophenyl)-1-piperazinyl]ethyl]-3-methyl-2-oxazolidinone | 5.7 g, 74% | FC1=CC=C(C=C1)N1CCN(CC1)CCC1CN(C(O1)=O)C | C16H22FN3O2
